US08895565B2
4-Amino-6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine
A mixture of 4-chloro-6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine and ethanol was saturated with ammonia gas and reacted under heating in a shield tube to obtain a target substance. The target substance was subjected to e.g., proton nuclear magnetic resonance spectrometry (1H-NMR) and mass spectrometry (MS) and confirmed as the titled compound. Furthermore, MS measurement result is shown.

reactant | 4-chloro-6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine | ClC1=NC=NC(=C1C#CC1=CC=C(C=C1)C(F)(F)F)C | C14H8ClF3N2
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 4-Amino-6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine | NC1=NC=NC(=C1C#CC1=CC=C(C=C1)C(F)(F)F)C | C14H10F3N3
